US07728155B2
Treatment of (±)-1-[1-(benzyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol (7.93 g, 0.019 mol) with palladium on carbon (10 wt. %, 0.80 g) generally according to the procedure described for Intermediate 4 gave 5.75 g (92%) of (±)-2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxypropyl)-5,6,7,8-tetrahydronaphthalen-1-ol as a colorless oil. Rf=0.55 (silica, ethyl acetate:hexanes 1:3); Anal. calcd. for C19H32O3Si.0.3C4H8O2: C, 66.84; H, 9.55. Found: C, 66.47; H, 9.74.

reactant | (±)-1-[1-(benzyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol | 0.019 mol, 7.93 g | C(C1=CC=CC=C1)OC1=C(C=CC=2CCCCC12)CC(CO[Si](C)(C)C(C)(C)C)O | C26H38O3Si
catalyst | palladium on carbon | 0.80 g | [Pd] | Pd
product | (±)-2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxypropyl)-5,6,7,8-tetrahydronaphthalen-1-ol | 5.75 g, 92% | [Si](C)(C)(C(C)(C)C)OCC(CC1=C(C=2CCCCC2C=C1)O)O | C19H32O3Si
